US07759389B2
A solution of 2-[7-(3-Fluoro-benzenesulfonyl)-chroman-4-yl]-ethanol (1.35 g, 4.01 mmol) in CH2Cl2 (40 ml) was cooled to 0° C. Et3N (4.06 g, 40.2 mmol) was added at 0° C. followed by methanesulfonylchloride (0.91 g, 8.00 mmol). The reaction mixture was stirred in an ice bath for 2 hours, then diluted with CH2Cl2, washed with brine, dried with MgSO4, filtered and concentrated to give AN oil residue. The residue was purified with flash chromatography to give methanesulfonic acid 2-[7-(3-fluoro-benzenesulfonyl)-chroman-4-yl]-ethyl ester as a clear oil: 1.35 g; MS: 415.2 (M+H)+, 829.2 (2M+H)+.

reactant | 2-[7-(3-Fluoro-benzenesulfonyl)-chroman-4-yl]-ethanol | 4.01 mmol, 1.35 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)CCO | C17H17FO4S
reactant | Et3N | 40.2 mmol, 4.06 g | CCN(CC)CC | C6H15N
reactant | methanesulfonylchloride | 8.00 mmol, 0.91 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 2-[7-(3-fluoro-benzenesulfonyl)-chroman-4-yl]-ethyl ester | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)CCOS(=O)(=O)C | C18H19FO6S2
